US06022884
Step A: 2-(Cyclohexylamino)-5-nitro-pyridine
Sodium hydride (60% dispersion in mineral oil, 1.99 g, 49.8 mmol) was washed 3× with hexanes then a solution of cyclohexylamine (3.8 mL, 33.2 mmol) dissolved in tetrahydrofuran (50 mL) was added. After stirring for 30 minutes at 22° C., 2-chloro-5-nitropyridine (5.00 g, 31.5 mmol) was added and the reaction mixture was heated to reflux for 3 hours. The solution was cooled to ambient temperature, quenched with saturated aqueous NH4Cl and concentrated in vacuo. The residue was redissolved in ethyl acetate then washed 2× with saturated NaHCO3, saturated NaCl, dried over anhydrous Na2SO4 and concentrated in vacuo. The product was recovered as a brown oil.

reactant | Sodium hydride | 49.8 mmol, 1.99 g | [H-].[Na+]
reactant | cyclohexylamine | 33.2 mmol, 3.8 mL | C1(CCCCC1)N | C6H13N
reactant | 2-chloro-5-nitropyridine | 31.5 mmol, 5.00 g | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 2-(Cyclohexylamino)-5-nitro-pyridine | C1(CCCCC1)NC1=NC=C(C=C1)[N+](=O)[O-] | C11H15N3O2
